US08466114B2
To a cooled solution of 6-bromo-1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinoline (2.5 g, 7.5 mmol) in THF (30 mL) was added 1.6 M n-butyl lithium in hexanes (4.7 mL, 7.5 mmol) at −78° C., stirred for 30 min. This was transferred to a stirred solution of 5-bromo-2-chlorobenzaldehyde (1.73 g, 7.9 mmol) in THF (30 mL) at −78° C. After stirring for 30 min, reaction was quenched by the addition of saturated aqueous solution of ammonium chloride and extracted with ethyl acetate (2×50 mL). The ethyl acetate layer was washed with water, brine, dried over sodium sulphate, and concentrated. The resulting residue was purified by silica gel column chromatography to give (5-bromo-2-chloro-phenyl)-[1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-methanol (2.31 g).

reactant | 6-bromo-1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinoline | 7.5 mmol, 2.5 g | BrC=1C=C2CCCN(C2=CC1)CC1=CC=C(C=C1)OC | C17H18BrNO
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | 5-bromo-2-chlorobenzaldehyde | 7.9 mmol, 1.73 g | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (5-bromo-2-chloro-phenyl)-[1-(4-methoxy-benzyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-methanol | 2.31 g | BrC=1C=CC(=C(C1)C(O)C=1C=C2CCCN(C2=CC1)CC1=CC=C(C=C1)OC)Cl | C24H23BrClNO2
